US04262128
A solution of 1-(6-carboxyhexyl)-5-((E)-3-oxooctylidene)hydantoin (3.06 g) in EtOH (60 ml) was stirred with 10% palladised charcoal (200 mg) under hydrogen at room temperature and pressure, absorption of 1 molecular equivalent of hydrogen occurring in 2 hours. The catalyst was filtered, the filtrate was evaporated in vacuo, and the residual gum was set aside to give a mass of colourless crystals. The crystals were suspended in ether (4 ml) and collected, affording pure 1-(6-carboxyhexyl)-5-(3-oxo-octyl)hydantoin, m.p. 84.5°-86°. A stirred suspension of 0.5 g of this compound in water (15 ml) at 0° C. was treated with NaHCO3 (0.36 g) and then, during 3 minutes, with sodium borohydride (54 mg). After 45 minutes, more sodium borohydride (54 mg) was added and, after a further 11/2 hours, the clear solution was set aside at room temperature for 11/2 hours. The solution was then acidified to Congo Red with hydrochloric acid, the liberated carboxylic acid was extracted into chloroform, and the chloroform solution was washed and dried over magnesium sulphate. Evaporation of the solvent afforded 1-(6-carboxyhexyl)-5-(3-hydroxyoctyl) hydantoin as a mixture of diastereomers which was subjected to HPLC (SiO2, CHCl3 /MeOH/HOAc 97.75:1.25:1.0), affording the individual diastereomers as colourless gums, Rf. 0.44 and 0.40 (relative to 0.64 for a marker of the starting oxo-compound) and SiO2 in CHCl3 /MeOH/HOAc 90:5:5.

reactant | 1-(6-carboxyhexyl)-5-((E)-3-oxooctylidene)hydantoin | 3.06 g | C(=O)(O)CCCCCCN/1C(=O)NC(=O)\C1=C/CC(CCCCC)=O | C18H28N2O5
reactant | charcoal | 200 mg | C | CH4
solvent | EtOH | 60 ml | CCO | C2H6O
solvent | ether | 4 ml | CCOCC | C4H10O
product | 1-(6-carboxyhexyl)-5-(3-oxo-octyl)hydantoin | C(=O)(O)CCCCCCN1C(=O)NC(=O)C1CCC(CCCCC)=O | C18H30N2O5
